data/pmechdb/original/mc_train_fold0/raw/train.txt
CC(=O)C=C[CH:20]=[OH+:21].C(C(C1[C:11](=[C:10](C(=O)O1)O)[OH:12])O)O>>CC(=O)C=C[CH:20]([C:10]1([C:11](=[OH+:12])C(OC1=O)C(CO)O)O)[OH:21] 10,11=10,20;20,21=21;12=11
CC(=O)[O:21][C:20]1(CCCCO1)[O-:10]>>CC(=O)[O-:21].C1CCO[C:20](=[O:10])C1 10=20;20,21=21
C[P+:20](C)(C)Cl.[OH-:10]>>C[P:20](C)(C)([OH:10])Cl 10=20,
CCO[Si:20](C)(C)C.C[Si](C)(C)[O-:10].CCCC[N+](CCCC)(CCCC)CCCC.CCO.O>>CCO[Si-:20](C)(C)(C)[O:10][Si](C)(C)C.CCCC[N+](CCCC)(CCCC)CCCC.CCO.O 10=20,
C1CN(CC[NH:10]1)C2=CC=C(C=C2)[N+](=O)[O-].C1C2CC1C[C:20](=[O:21])C2.[BH-](OC(=O)C)(OC(=O)C)OC(=O)C.CC(=O)O.[Na+]>>C1CN(CC[NH+:10]1[C:20]2(CC3CC(C3)C2)[O-:21])C4=CC=C(C=C4)[N+](=O)[O-].[BH-](OC(=O)C)(OC(=O)C)OC(=O)C.CC(=O)O.[Na+] 10=20;20,21=21
[H:20][C:21]1(CCCC([CH:22]1[N+:23](C)(C)C)C=CC)C.[OH-:10]>>[H:20][OH:10].CC=CC1CCC[C:21](=[CH:22]1)C.C[N:23](C)C 10=20;22,23=23;20,21=21,22
[H:20][O+:21](C(C)CCC1CCCC1)S([O-])(Cl)Cl.CC(CCC1CCCC1)[OH:10]>>[H:20][OH+:10]C(C)CCC1CCCC1.CC(CCC1CCCC1)[O:21]S([O-])(Cl)Cl 10=20;20,21=21
[CH:10]1=[CH:11]OC(=C1)S(=O)(=O)O.[N+:20](=O)=[O:21]>>C1=C(O[CH+:11][CH:10]1[N+:20](=O)[O-:21])S(=O)(=O)O 10,11=10,20;20,21=21
C1=CN[CH:10]=[CH:11]1.[Br:20][Br:21]>>C1=CN[CH:10]([CH+:11]1)[Br:20].[Br-:21] 10,11=10,20;20,21=21
[H:20][CH:21](CC#[C-])[CH2:22][Br:23].CC(C)[N-:10]C(C)C>>[H:20][N:10](C(C)C)C(C)C.[CH2:22]=[CH:21]CC#[C-].[Br-:23] 10=20;22,23=23;20,21=21,22
[H:20][N+:21]1(C(=O)NC(C(C1(C2=CC=CC=C2)O)C(=O)OC)C3=CC=CC=C3)C.[OH2:10]>>[H:20][OH2+:10].C[N:21]1C(=O)NC(C(C1(C2=CC=CC=C2)O)C(=O)OC)C3=CC=CC=C3 10=20;20,21=21
[H:20][C:21]1(C=CC=C[C+:22]1O)Br.[Br-:10]>>[H:20][Br:10].C1=C[C:22](=[C:21](C=C1)Br)O 10=20;20,21=21,22
COC1=C(C2=C(CC3C4C2(CCN3CC=C)[CH+:20]C(=CC4)O)C=C1)[OH:10].CO.CS(=O)(=O)O.CS(=O)(=O)[O-]>>COC1=C2C3=C(CC4C5C3(CCN4CC=C)[CH:20]([OH+:10]2)C(=CC5)O)C=C1.CO.CS(=O)(=O)O.CS(=O)(=O)[O-] 10=20,
[CH:10]1=[CH:11][CH:12]=[C:13](C=C1)Br.O[S+:20](=O)=O>>C1=C[C+:13]([CH:12]=[CH:11][CH:10]1[S:20](=O)(=O)O)Br 10,11=10,20;12,13=11,12
CCC(=O)N[C:13]1=[C:12]([CH:11]=[CH:10]C=C1)Br.[Br:20][Br:21]>>CCC(=O)N[C+:13]1C=C[CH:10]([CH:11]=[C:12]1Br)[Br:20].[Br-:21] 10,11=10,20;20,21=21;12,13=11,12
[H:20][NH2+:21]CC1=CC=CO1.CC1=CCC(N1CC2=CC=CO2)(C)[O-:10].O>>[H:20][O:10]C1(CC=C(N1CC2=CC=CO2)C)C.C1=COC(=C1)C[NH2:21].O 10=20;20,21=21
[Li:11][C:10]1=CC=CC=C1.C[C:20](=[O:21])OC(=O)CCC=O>>[Li+:11].C[C:20]([C:10]1=CC=CC=C1)([O-:21])OC(=O)CCC=O 10,11=10,20;20,21=21
[H:20][O+:21](CC)C(C)OCC.OS(=O)(=O)[O-:10]>>CCOC(C)[O:21]CC.[H:20][O:10]S(=O)(=O)O 10=20;20,21=21
CC[CH:20](C)[O:21]S(=O)(=O)C1=CC=CC=C1.C1=CC=C(C=C1)[P:10](C2=CC=CC=C2)C3=CC=CC=C3>>CC[CH:20](C)[P+:10](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)S(=O)(=O)[O-:21] 10=20;20,21=21
[B-]([O:10]C(C[N+:21]#[C:20]C)COS(=O)(=O)C)(F)(F)F>>[B-]([O+:10]1C(C[N:21]=[C:20]1C)COS(=O)(=O)C)(F)(F)F 10=20;20,21=21
[CH2:20]=[CH:21][C:22](=[O:23])O[Na].O[O-:10]>>[CH2:20]([CH:21]=[C:22]([O-:23])O[Na])[O:10]O 10=20;22,23=23;20,21=21,22
[H:20][Br:21].CO[CH:11]=[CH:10]C1=CC=CC=C1>>[H:20][CH:10]([CH+:11]OC)C1=CC=CC=C1.[Br-:21] 10,11=10,20;20,21=21
CCOC(=O)C1=C[N-:10]C2=C(C1=O)C=CC=C2.COC(=O)C1=CC=C(C=C1)[CH2:20][Br:21].[HH].C1CCOC1.[Na+]>>CCOC(=O)C1=C[N:10](C2=C(C1=O)C=CC=C2)[CH2:20]C3=CC=C(C=C3)C(=O)OC.[Br-:21].[HH].C1CCOC1.[Na+] 10=20;20,21=21
CC(=O)O[C:20](=[O:21])C.C(C(C=N[OH:10])O)O>>CC(=O)O[C:20](C)([O-:21])[OH+:10]N=CC(CO)O 10=20;20,21=21
CCC1C(C2C(CCN2C(=O)OC)C3C1OC(=O)C3C)CCC[CH2:20][O:21]S(=O)(=O)C.[I-:10].[K+]>>CCC1C(C2C(CCN2C(=O)OC)C3C1OC(=O)C3C)CCC[CH2:20][I:10].CS(=O)(=O)[O-:21].[K+] 10=20;20,21=21
CC[Al-]([O+](C12CCCC(C1)C(=C)C2)[Si-:10](C)(C)(C)[Cl:11])(Cl)Cl>>CC[Al-]([O+](C12CCCC(C1)C(=C)C2)[Si:10](C)(C)C)(Cl)Cl.[Cl-:11] 10,11=11
CCOC(=O)C1=CN(C2=C(C1=O)C=C(C(=C2)N3CC[N:10](CC3)[CH:20](C4=CC5=C(C=C4)C(N(C5(C)C)OC)(C)C)[OH2+:21])F)C6CC6.CC(=O)[O-].CO>>CCOC(=O)C1=CN(C2=C(C1=O)C=C(C(=C2)N3CC[N+:10](=[CH:20]C4=CC5=C(C=C4)C(N(C5(C)C)OC)(C)C)CC3)F)C6CC6.[OH2:21].CC(=O)[O-].CO 10=20;20,21=21
[H:20][OH2+:21].CC(=O)CCC=C=[N-:10]>>[H:20][N:10]=C=CCCC(=O)C.[OH2:21] 10=20;20,21=21
[H:20][CH:21]1C=C([N+:23](=[C:22]1C)C2=C(C=CC=C2)Br)C.CC(=O)[O-:10].O>>CC1=C[CH:21]=[C:22]([N:23]1C2=C(C=CC=C2)Br)C.[H:20][O:10]C(=O)C.O 10=20;22,23=23;20,21=21,22
CC1=[NH+]C[C:20](O1)([O-:10])[O:21]C(=O)C>>CC1=[NH+]C[C:20](=[O:10])O1.CC(=O)[O-:21] 10=20;20,21=21
COC1=CC2=C(C=C1)C=C(C=C2)[C:20]3(CC=C([NH:10]3)C4=CC=CC=C4)[OH2+:21].CC(=O)[O-].O>>COC1=CC2=C(C=C1)C=C(C=C2)[C:20]3=[NH+:10]C(=CC3)C4=CC=CC=C4.[OH2:21].CC(=O)[O-].O 10=20;20,21=21
[H:20][C:21]1(C=C[C+:24]([C:23](=[CH:22]1)Br)OC)C(C)C.[F-:10]>>[H:20][F:10].CC(C)[C:21]1=[CH:22][C:23](=[C:24](C=C1)OC)Br 10=20;20,21=21,22;22,23=23,24
CC1C(=C(C2C#CC=CC#CC3C14C2(O4)C5=C(N3C(=O)OCC[Si:20](C)(C)C)C=CC(=C5)O[Si](C)(C)C(C)(C)C)OC)C(=O)OCOC.[F-:10].CCCC[N+](CCCC)(CCCC)CCCC>>CC1C(=C(C2C#CC=CC#CC3C14C2(O4)C5=C(N3C(=O)OCC[Si-:20](C)(C)(C)[F:10])C=CC(=C5)O[Si](C)(C)C(C)(C)C)OC)C(=O)OCOC.CCCC[N+](CCCC)(CCCC)CCCC 10=20,
CO[C:20]([NH3+:21])([OH:10])OC>>CO[C:20](=[OH+:10])OC.[NH3:21] 10=20;20,21=21
